US08247556B2
Preparation VI—1-[2-(5-Nitro-2-pentafluoroethyl-phenoxy)-ethyl]-pyrrolidine
A flask was charged with 5-nitro-2-pentafluoroethylphenol (3.67 g, 14.2 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (9.71 g, 57.1 mmol), DMF (20 mL) and combined with K2CO3 (5.9 g, 42.1 mmol) and heated to 70° C. for 24 h. The reaction was cooled to RT, taken up in to EtOAc and washed with 2N NaOH, and brine. The organic layer was dried with MgSO4, filtered and concentrated in vacuo. The aqueous layer was acidified, extracted with EtOAc and dried with MgSO4, filtered, concentrated in vacuo and combined with the other portion. The title compound was purified by column chromatography using 0-10% MeOH in CH2Cl2.

reactant | 5-nitro-2-pentafluoroethylphenol | 14.2 mmol, 3.67 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(C(F)(F)F)(F)F | C8H4F5NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 57.1 mmol, 9.71 g | Cl.ClCCN1CCCC1
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 42.1 mmol, 5.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(5-Nitro-2-pentafluoroethyl-phenoxy)-ethyl]-pyrrolidine | [N+](=O)([O-])C=1C=CC(=C(OCCN2CCCC2)C1)C(C(F)(F)F)(F)F | C14H15F5N2O3
